US08871767B2
5-(6-chloroimidazo[1,2-a]pyrazin-2-yl)-2-(trifluoromethyl)aniline
Iron (0.726 g) is added to a mixture of 6-chloro-2-[3-nitro-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrazine (0.891 g), HOAc (1.19 mL), and EtOH—H2O (10 mL, 4:1). The mixture is stirred at 80° C. for 2 hours, cooled, concentrated and taken up into sat. aqueous NaHCO3 and extracted with EtOAc and CH2Cl2. Organic layer is dried and concentrated to give the title compound (813 mg), which is used without further purification. LCMS m/z=313.4 [M+H]+, tR=2.29 min.

reactant | 6-chloro-2-[3-nitro-4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrazine | 0.891 g | ClC=1N=CC=2N(C1)C=C(N2)C2=CC(=C(C=C2)C(F)(F)F)[N+](=O)[O-] | C13H6ClF3N4O2
reactant | HOAc | 1.19 mL | CC(=O)O | C2H4O2
catalyst | Iron | 0.726 g | [Fe] | Fe
solvent | EtOH—H2O | 10 mL | C(C)O.O
product | 5-(6-chloroimidazo[1,2-a]pyrazin-2-yl)-2-(trifluoromethyl)aniline | 813 mg | ClC=1N=CC=2N(C1)C=C(N2)C=2C=CC(=C(N)C2)C(F)(F)F | C13H8ClF3N4
